### PR TITLE
[Merged by Bors] - feat(Data/Real/EReal): add simp theorems involving the sum of `⊤` and `x`

### PR DESCRIPTION
**Pull request by pitmonticone**
- [x] Add the theorem `top_add_of_ne_bot` which states that for any extended real number `x` which is not `⊥`, the sum of `⊤` and `x` is equal to `⊤`.
- [x] Add the theorem `add_top_of_ne_bot` which states that for any extended real number `x` which is not `⊥`, the sum of `x` and `⊤` is equal to `⊤`.
- [x]  Add the theorem `add_pos` which states that for any two extended real numbers `a` and `b`, if both `a` and `b` are greater than `0`, then their sum is also greater than `0`.
- [x] Add the theorem `mul_pos` which states that the product of two positive extended real numbers is positive. 
- [x] Add the theorem `add_top_iff_ne_bot` which states that for any extended real number `x`, the sum of `x` and `⊤` is equal to `⊤` if and only if `x` is not `⊥`.
- [x] Add the theorem `top_add_iff_ne_bot` which states that for any extended real number `x`, the sum of `⊤` and `x` is equal to `⊤` if and only if `x` is not `⊥`.
 
Co-authored-by: @D-Thomine 

-- 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by fpvandoorn — APPROVED** [review]
LGTM, thanks

It might also be useful to add `iff` versions of these two lemmas (keep the current lemmas as well if you think they're useful simp lemmas).

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -800,6 +800,19 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
   rfl
 #align ereal.top_add_coe EReal.top_add_coe
 
+/--For any extended real number `x` which is not `⊥`, the sum of `⊤` and `x` is equal to `⊤`.-/
+@[simp]
+theorem top_add_ne_bot {x : EReal} (h : x ≠ ⊥) : ⊤ + x = ⊤ := by
```
Comment (fpvandoorn) [inline Mathlib/Data/Real/EReal.lean:805]:
```suggestion
theorem top_add_of_ne_bot {x : EReal} (h : x ≠ ⊥) : ⊤ + x = ⊤ := by
```
and the other one `add_top_of_ne_bot`. 
Hypotheses should come after `_of_`, and not be "inlined".

**Comment by pitmonticone** [comment]
Thank you @fpvandoorn. I have converted into a draft because I want to add other related theorems in this file.

I will reopen it soon.

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Done. Thanks!

File: Mathlib/Data/Real/EReal.lean [hunk 2]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
   rfl
 #align ereal.top_add_coe EReal.top_add_coe
 
+/--For any extended real number `x` which is not `⊥`, the sum of `⊤` and `x` is equal to `⊤`.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:803]: style nit
```suggestion
/-- For any extended real number `x` which is not `⊥`, the sum of `⊤` and `x` is equal to `⊤`. -/
```

File: Mathlib/Data/Real/EReal.lean [hunk 3]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+@[simp]
+theorem top_add_of_ne_bot {x : EReal} (h : x ≠ ⊥) : ⊤ + x = ⊤ := by
+  induction x using EReal.rec
+  · exfalso; exact h (Eq.refl ⊥)
+  · exact top_add_coe _
+  · exact top_add_top
+
+/--For any extended real number `x`, the sum of `⊤` and `x` is equal to `⊤`
+if and only if `x` is not `⊥`.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:812]: style nit. Also, you can leave these docstrings in, but I don't think they're adding anything meaningful. Maybe in the future consider whether reading the docstring is actually simpler than reading the statement. :shrug:
```suggestion
/-- For any extended real number `x`, the sum of `⊤` and `x` is equal to `⊤`
if and only if `x` is not `⊥`. -/
```

File: Mathlib/Data/Real/EReal.lean [hunk 4]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+  constructor <;> intro h
+  · by_contra h'
+    rw [h', add_bot] at h
+    exact bot_ne_top h
+  · cases x
+    case h_bot => contradiction
+    case h_top => rfl
+    case h_real r => exact top_add_of_ne_bot h
+
+/--For any extended real number `x` which is not `⊥`, the sum of `x` and `⊤` is equal to `⊤`.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:823]:
```suggestion
/-- For any extended real number `x` which is not `⊥`, the sum of `x` and `⊤` is equal to `⊤`. -/
```

File: Mathlib/Data/Real/EReal.lean [hunk 5]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+@[simp]
+theorem add_top_of_ne_bot {x : EReal} (h : x ≠ ⊥) : x + ⊤ = ⊤ := by
+  rw [add_comm, top_add_of_ne_bot h]
+
+/--For any extended real number `x`, the sum of `x` and `⊤` is equal to `⊤`
+if and only if `x` is not `⊥`.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:829]:
```suggestion
/-- For any extended real number `x`, the sum of `x` and `⊤` is equal to `⊤`
if and only if `x` is not `⊥`. -/
```

File: Mathlib/Data/Real/EReal.lean [hunk 6]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+  · by_contra h'
+    rw [h', bot_add] at h
+    exact bot_ne_top h
+  · cases x
+    case h_bot => contradiction
+    case h_top => rfl
+    case h_real r => exact top_add_of_ne_bot h
+
+/--For any two extended real numbers `a` and `b`, if both `a` and `b` are greater than `0`,
+then their sum is also greater than `0`.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:841]:
```suggestion
/-- For any two extended real numbers `a` and `b`, if both `a` and `b` are greater than `0`,
then their sum is also greater than `0`. -/
```

File: Mathlib/Data/Real/EReal.lean [hunk 7]
```diff
@@ -1081,6 +1131,17 @@ theorem top_mul_of_pos {x : EReal} (h : 0 < x) : ⊤ * x = ⊤ := by
   exact mul_top_of_pos h
 #align ereal.top_mul_of_pos EReal.top_mul_of_pos
 
+/--The product of two positive extended real numbers is positive.-/
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:1134]:
```suggestion
/-- The product of two positive extended real numbers is positive. -/
```

**Review by j-loreaux — COMMENTED** [review]
only style nits

File: Mathlib/Data/Real/EReal.lean (hunk 3 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Yes, you're totally right. Sorry for the pedantry.

**Comment by pitmonticone** [comment]
I have addressed all the review comments. 

Thank you @fpvandoorn and @j-loreaux for your reviews.

File: Mathlib/Data/Real/EReal.lean [hunk 8]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+    case h_real r => exact top_add_of_ne_bot h
+
+/-- For any extended real number `x` which is not `⊥`, the sum of `x` and `⊤` is equal to `⊤`. -/
+@[simp]
+theorem add_top_of_ne_bot {x : EReal} (h : x ≠ ⊥) : x + ⊤ = ⊤ := by
+  rw [add_comm, top_add_of_ne_bot h]
+
+/-- For any extended real number `x`, the sum of `x` and `⊤` is equal to `⊤`
+if and only if `x` is not `⊥`. -/
+theorem add_top_iff_ne_bot {x : EReal} : x + ⊤ = ⊤ ↔ x ≠ ⊥ := by
```
Comment (fpvandoorn) [inline Mathlib/Data/Real/EReal.lean:830]: `rw [add_comm, top_add_of_ne_bot]`

File: Mathlib/Data/Real/EReal.lean [hunk 9]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+    rw [h', bot_add] at h
+    exact bot_ne_top h
+  · cases x
+    case h_bot => contradiction
+    case h_top => rfl
+    case h_real r => exact top_add_of_ne_bot h
+
+/-- For any two extended real numbers `a` and `b`, if both `a` and `b` are greater than `0`,
+then their sum is also greater than `0`. -/
+@[simp]
```
Comment (fpvandoorn) [inline Mathlib/Data/Real/EReal.lean:842]:
```suggestion
```
This doesn't feel like a `simp` lemma. Note that `simp` only uses theorems with side-conditions if those side-conditions can be proven by the discharger, which is `simp` by default. The above equalities with the `x ≠ ⊥` conditions are already on the edge of what is useful to `simp`, because it will only rewrite if it can actually find a proof for the side-condition. (But I think those are fine)

File: Mathlib/Data/Real/EReal.lean [hunk 10]
```diff
@@ -800,6 +800,56 @@ theorem top_add_coe (x : ℝ) : (⊤ : EReal) + x = ⊤ :=
...
+theorem add_pos {a b : EReal} (ha : 0 < a) (hb : 0 < b) : 0 < a + b := by
+  induction a using EReal.rec
+  · exfalso; exact not_lt_bot ha
+  · induction b using EReal.rec
+    · exfalso; exact not_lt_bot hb
+    · norm_cast at *; exact Left.add_pos ha hb
+    · exact add_top_of_ne_bot (Ne.symm (ne_of_lt (lt_trans bot_lt_zero ha))) ▸ hb
+  · rw [top_add_of_ne_bot (Ne.symm (ne_of_lt (lt_trans bot_lt_zero hb)))]
```
Comment (fpvandoorn) [inline Mathlib/Data/Real/EReal.lean:850]:
```suggestion
  · rw [top_add_of_ne_bot (bot_lt_zero.trans hb).ne']
```
(didn't test, also line above)

File: Mathlib/Data/Real/EReal.lean (hunk 8 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Done, thanks!

File: Mathlib/Data/Real/EReal.lean (hunk 9 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Done, thanks!

File: Mathlib/Data/Real/EReal.lean (hunk 10 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Done, thanks!

**Comment by pitmonticone** [comment]
I have addressed all the review comments. 

Thank you @fpvandoorn and @j-loreaux for your reviews.

File: Mathlib/Data/Real/EReal.lean [hunk 11]
```diff
@@ -1081,6 +1122,17 @@ theorem top_mul_of_pos {x : EReal} (h : 0 < x) : ⊤ * x = ⊤ := by
   exact mul_top_of_pos h
 #align ereal.top_mul_of_pos EReal.top_mul_of_pos
 
+/-- The product of two positive extended real numbers is positive. -/
+@[simp]
```
Comment (fpvandoorn) [inline Mathlib/Data/Real/EReal.lean:1126]:
```suggestion
```

Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean]: Oh sorry. I changed it yesterday, but I didn't pushed it 🤦‍♂️.

**Comment by fpvandoorn** [comment]
bors d+

**Comment by pitmonticone** [comment]
bors merge
